US06977264B2
Step (b) 2-{2-[(Methylsulfonyl)(2-(4-piperidyl)phenyl)amino]ethyl}isoindoline-1,3-dione hydrochloride
To a 150 mL round-bottomed flask equipped with stirring was added tert-butyl 4-(2-{[2-(1,3-dioxo-isoindolin-2-yl)ethyl](methylsulfonyl)-amino}-phenyl)-piperidinecarboxylate (Step a) (1.58 g, 3 mmol) and EtOAc (5 mL). The mixture was treated with a satd solution of anhydrous HCl in EtOAc (70 mL) at 0° C. The reaction mixture was warmed to RT and stirred for 3 h. The solvent was removed in vacuo to provide the title compound as a white foam (1.38 g). MS (ESI, pos. ion) m/z: 428 (M+1); MS (ESI, neg. ion) m/z: 426 (M−1). Calc'd for C22H25N3O4S: 427.16.

reactant | tert-butyl 4-(2-{[2-(1,3-dioxo-isoindolin-2-yl)ethyl](methylsulfonyl)-amino}-phenyl)-piperidinecarboxylate | O=C1N(C(C2=CC=CC=C12)=O)CCN(C1=C(C=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C | C27H33N3O6S
reactant | HCl | Cl | ClH
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 2-{2-[(Methylsulfonyl)(2-(4-piperidyl)phenyl)amino]ethyl}isoindoline-1,3-dione hydrochloride | 1.38 g | Cl.CS(=O)(=O)N(CCN1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)C1CCNCC1 | InChI=1S/C22H25N3O4S.ClH/c1-30(28,29)25(20-9-5-4-6-17(20)16-10-12-23-13-11-16)15-14-24-21(26)18-7-2-3-8-19(18)22(24)27;/h2-9,16,23H,10-15H2,1H3;1H
